US07241792B2
Step F: Preparation of 7-Cyclopropyl-hept-5-ene-1,2-diol
Stirred 4-(5-Cyclopropyl-pent-3-enyl)-2,2-dimethyl-[1,3]dioxolane (0.30 g, 1.4 mmol) in 80% AcOH (5 mL) overnight at room temperature. Concentrated and purified by silica gel chromatography (70˜90% EtOAc in hexanes) to collect 7-Cyclopropyl-hept-5-ene-1,2-diol as a clear oil. 1H NMR (400 MHz, CDCl3): δ 5.52–5.47 (m, 1H), 5.41–5.35 (m, 1H), 3.77–3.71 (m, 1H), 3.66 (d, 1H, J=11.2 Hz), 3.46 (dd, 1H, J1=11.2 Hz, J2=7.7 Hz), 2.19–2.10 (m, 2H), 1.97 (t, 2H, J=7.1 Hz), 1.53–1.46 (m, 2H), 0.74–0.68 (m, 1H), 0.44–0.39 (m, 2H), 0.08–0.04(m, 2H).

reactant | 4-(5-Cyclopropyl-pent-3-enyl)-2,2-dimethyl-[1,3]dioxolane | 1.4 mmol, 0.30 g | C1(CC1)CC=CCCC1OC(OC1)(C)C | C13H22O2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | 7-Cyclopropyl-hept-5-ene-1,2-diol | C1(CC1)CC=CCCC(CO)O | C10H18O2
